US06630593B1
Synthesis of 1-(4-Bromobenzyl)-5-hydroxymethylimidazole
1-(4-Bromobenzyl)-2-mercapto-5-hydroxymethylimidazole(1.5 g, 5 mmol) and tungstic acid(12.5 mg, 1 mol %) were suspended in 7 ml of methanol. The suspension was warmed to 40° C. and then, 30% hydrogen peroxide was slowly added dropwise. After about 2 hours, the mixture was cooled and neutralized with 1 N sodium hydroxide solution, and the precipitate was filtered. The obtained solid was washed twice with 5 ml of distilled water and 5 ml of isopropyl ether, respectively, to give 1.1 g(Yield 82%) of the title compound as a white powder.

reactant | 1-(4-Bromobenzyl)-2-mercapto-5-hydroxymethylimidazole | 5 mmol, 1.5 g | BrC1=CC=C(CN2C(=NC=C2CO)S)C=C1 | C11H11BrN2OS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
catalyst | tungstic acid | 12.5 mg | O[W](=O)(=O)O
product | 1-(4-Bromobenzyl)-5-hydroxymethylimidazole | 1.1 g, Yield 82% | BrC1=CC=C(CN2C=NC=C2CO)C=C1 | C11H11BrN2O
